US07563791B2
Preparation of ethyl 4-amino-5-(3-fluoro-4-nitrophenyl)pyrrolo[2,1-f][1,2,4]triazine-6-carboxylate
To a solution of EtOH (75 mL) was added ethyl 1-amino-5-cyano-4-(3-fluoro-4-nitrophenyl)-1H-pyrrole-3-carboxylate (1.68 g, 5.28 mmol) and formamidine acetate (5.49 g, 52.8 mmol). The solution was heated to 80° C. for 17 h. Upon cooling to rt the solution was treated with water and a precipitate formed which was filtered and washed with additional water. The solid was then suspended in DCM and Et2O. The solid was collected and washed with Et2O yielding 1.22 g of an orange-yellow solid (3.52 mmol, yield 67%). 1H-NMR (DMSO-d6) δ 8.20 (s, 1H), 8.18 to 8.14 (t, J=8.2 Hz, 1H), 7.97 (s, 1H), 7.66 to 7.63 (d, J=12.4 Hz, 1H), 7.41 to 7.39 (d, J=8.4 Hz, 1H), 4.12 to 4.07 (q, J=7.0 Hz, 2H), 1.13 to 1.10 (t, J=7.0 Hz, 3H); MS [M+H]+=346.2; LCMS RT=2.77 min.

reactant | EtOH | 75 mL | CCO | C2H6O
reactant | ethyl 1-amino-5-cyano-4-(3-fluoro-4-nitrophenyl)-1H-pyrrole-3-carboxylate | 5.28 mmol, 1.68 g | NN1C=C(C(=C1C#N)C1=CC(=C(C=C1)[N+](=O)[O-])F)C(=O)OCC | C14H11FN4O4
reactant | formamidine acetate | 52.8 mmol, 5.49 g | C(C)(=O)O.C(=N)N
reactant | water | O | H2O
solvent | Et2O | 1.22 g | CCOCC | C4H10O
product | ethyl 4-amino-5-(3-fluoro-4-nitrophenyl)pyrrolo[2,1-f][1,2,4]triazine-6-carboxylate | 3.52 mmol, yield 67% | NC1=NC=NN2C1=C(C(=C2)C(=O)OCC)C2=CC(=C(C=C2)[N+](=O)[O-])F | C15H12FN5O4
